US04814329
1-(5-Benzyl-2-thioxo-1-benzimidazolyl)-3-butanone
16 g (66.7 mmoles) of 5-benzyl-benzimidazoline-2-thione are stirred in 30 ml of methylvinylketone for 25 hours. The excess of the detone is distilled off under vacuum (0.1 to 0.2 bars), 50 ml of isopropanol are poured onto the residue, then the solvent is distilled off. Upon pouring ether onto the residue, crystalls are obtained. These are filtered off, and recrystallized from acetonitrile, then ethanol. The title product thus obtained melts at a temperature of 141°-142° C.

reactant | 5-benzyl-benzimidazoline-2-thione | 66.7 mmoles, 16 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | methylvinylketone | 30 ml | CC(=O)C=C | C4H6O
product | 1-(5-Benzyl-2-thioxo-1-benzimidazolyl)-3-butanone | C(C1=CC=CC=C1)C1=CC2=C(N(C(N2)=S)CCC(C)=O)C=C1 | C18H18N2OS
